US07977344B2
6-Amino-2-(butylamino)-9-[3-(tetrahydro-2H-Pyran-4-yl)propyl]-7,9-dihydro-8H-Purin-8-one
To a solution of N2-butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-4-yl)propyl]-9H-purine-2,6-diamine (93.13 mg, 0.257 mmol) in methanol (10 ml) was added 4M HCl in dioxane (1.5 ml, 6 mmol) and the mixture stirred at room temperature overnight. The solvent was evaporated under a steam of nitrogen and the residue was redissolved in methanol (5 ml) and loaded onto a 5 g aminopropyl SPE cartridge and eluted with methanol. The eluant was evaporated under a stream of nitrogen to give the title compound (64 mg).

reactant | N2-butyl-8-(methyloxy)-9-[3-(tetrahydro-2H-pyran-4-yl)propyl]-9H-purine-2,6-diamine | 0.257 mmol, 93.13 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCC1CCOCC1)OC)N | C18H30N6O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 6 mmol, 1.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 6-Amino-2-(butylamino)-9-[3-(tetrahydro-2H-Pyran-4-yl)propyl]-7,9-dihydro-8H-Purin-8-one | 64 mg | NC1=C2NC(N(C2=NC(=N1)NCCCC)CCCC1CCOCC1)=O | C17H28N6O2
